US07576218B2
2-chloro-5-methylanisole (31.2 g, 1 equiv) and Bu4NCl (2 g, cat.) in 500 mL of water was treated with 95 g of KMnO4 at reflux for 3 hours. The mixture was then filtered through celite, acidified with conc. HCl and the white solid was collected after filtration and air dry to give 4-chloro-3-methoxybenzoic acid.

reactant | 2-chloro-5-methylanisole | 31.2 g, 1 equiv | ClC1=C(C=C(C=C1)C)OC | C8H9ClO
reactant | KMnO4 | 95 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | water | 500 mL | O | H2O
catalyst | Bu4NCl | 2 g | [N+](CCCC)(CCCC)(CCCC)CCCC.[Cl-]
product | 4-chloro-3-methoxybenzoic acid | ClC1=C(C=C(C(=O)O)C=C1)OC | C8H7ClO3
